US08044055B2
29.1. 4-benzyl-piperazine-1-carboxylic acid butyl ester
To a solution of 1-benzyl-piperazine (1.97 ml) and NEt3 (1.9 ml) in DCM (100 ml) was added n-butyl chloroformate (1.47 ml). The mixture was stirred at RT for 2 h. Water was added, the org. phase separated, dried (Na2SO4) and evaporated off to give 3.13 g of a yellow oil.

reactant | 1-benzyl-piperazine | 1.97 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | NEt3 | 1.9 ml | CCN(CC)CC | C6H15N
reactant | n-butyl chloroformate | 1.47 ml | ClC(=O)OCCCC | C5H9ClO2
reactant | Water | O | H2O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyl-piperazine-1-carboxylic acid butyl ester | 3.13 g | C(CCC)OC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C16H24N2O2
